US08283354B2
Under an N2 atmosphere, 4-chloro-2-(2-fluoro-6-methoxyphenyl)-7-methylquinazolin (7.0 g, 23.12 mmol) was dissolved in CH2Cl2 (110 mL) and cooled to −50° C. internal temperature using a dry ice/acetone bath. A 1.0 M solution of BBr3 in CH2Cl2 (115.6 mL, 115.6 nmol) was added dropwise via an addition funnel while maintaining the internal temperature at −50° C. The reaction mixture was allowed to warm to 0° C., and the reaction was complete after 1.5 h. It was then slowly quenched with saturated aqueous NaHCO3 solution to pH 7. After partitioning between CH2Cl2 and H2O, the mixture was separated and the aqueous layer was twice extracted with CH2Cl2. The combined organic layers were dried over Na2SO4, filtered, and concentrated to a brown solid. Purification via silica gel chromatography using 75% CH2Cl2/25% hexanes gave 2-(4-chloro-7-methylquinazolin-2-yl)-3-fluorophenol as a yellow solid (4.37 g, 66%). LC/MS: m/z 289.1 (M+H)+ at 3.71 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, CDCl3) δ 8.22 (d, J=8.5 Hz, 1H), 7.95 (s, 1H), 7.60 (dd, J=8.6, 1.5 Hz, 1H), 7.42-7.36 (m, 1H), 6.86-6.82 (m, 2H), 3.81 (s, 3H), 2.64 (s, 3H)

reactant | 4-chloro-2-(2-fluoro-6-methoxyphenyl)-7-methylquinazolin | 23.12 mmol, 7.0 g | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1OC)F | C16H12ClFN2O
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 110 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 115.6 nmol, 115.6 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-chloro-7-methylquinazolin-2-yl)-3-fluorophenol | 4.37 g, 66% | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1F)O | C15H10ClFN2O
